US04272537
3,5-Diamino-6-chloro-N-(3,4-dihydro-4,4-dimethyl-6-hydroxy-1,3,5-triazin-2-yl)-2-pyrazinecarboxamide
To a stirred solution of 3,5-diamino-6-chloro-N-(3,4-dihydro-4,4-dimethyl-6-ethoxy-1,3,5-triazin-2-yl)-2-pyrazinecarboxamide (0.55 g., 0.0016 mole) in sulfolane (10 ml.) is added trimethylsilyl iodide (1.5 ml.). The reaction mixture is stirred for 5 hours at 45° C., poured into ice water (30 ml.) containing hydrochloric acid (1.5 ml.), then extracted with chloroform (2×15 ml.) The aqueous layer is made basic with ammonia to give 420 mg. of 3,5-diamino-6-chloro-N-(3,4-dihydro-4,4-dimethyl-6-hydroxy-1,3,5-triazin-2-yl)-2-pyrazinecarboxamide which melts at 266°-8° C. after reprecipitation from dilute hydrochloric acid with ammonia.

reactant | 3,5-diamino-6-chloro-N-(3,4-dihydro-4,4-dimethyl-6-ethoxy-1,3,5-triazin-2-yl)-2-pyrazinecarboxamide | 0.0016 mole, 0.55 g | NC=1C(=NC(=C(N1)N)Cl)C(=O)NC1=NC(=NC(N1)(C)C)OCC | C12H17ClN8O2
reactant | trimethylsilyl iodide | 1.5 ml | C[Si](C)(C)I | C3H9ISi
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
solvent | sulfolane | 10 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 3,5-Diamino-6-chloro-N-(3,4-dihydro-4,4-dimethyl-6-hydroxy-1,3,5-triazin-2-yl)-2-pyrazinecarboxamide | NC=1C(=NC(=C(N1)N)Cl)C(=O)NC1=NC(=NC(N1)(C)C)O | C10H13ClN8O2
